US08703941B2
2,2-dimethylcyclopentanone (5 g, 44.6 mmol, 1 equiv.) was dissolved in toluene (100 mL). Then, ethyl 2-cyanoacetate (5.04 g, 44.6 mmol, 1 equiv.), ammonium acetate (2.4 g, 31.2 mmol, 0.7 equiv.) and acetic acid (2.8 mL) were added in the mixture at room temperature. The mixture was refluxed for 20 hours. 10% NaCl solution (100 mL) was added in the mixture. Then, the organic layer was washed by water (50 mL) and brine (50 mL), dried by sodium sulfate and filtered. The organic layer was concentrated and the residue was purified by column chromatography to give (E)-ethyl 2-cyano-2-(2,2-dimethylcyclopentylidene)acetate (2.47 g, 32%) as a colorless oil. MS: m/z 208 (M+H)+.

reactant | 2,2-dimethylcyclopentanone | 44.6 mmol, 5 g, 1 equiv. | CC1(C(CCC1)=O)C | C7H12O
reactant | ethyl 2-cyanoacetate | 44.6 mmol, 5.04 g, 1 equiv. | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 31.2 mmol, 2.4 g, 0.7 equiv. | C(C)(=O)[O-].[NH4+]
reactant | NaCl | 100 mL | [Na+].[Cl-]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 2.8 mL | C(C)(=O)O | C2H4O2
product | (E)-ethyl 2-cyano-2-(2,2-dimethylcyclopentylidene)acetate | 2.47 g, 32% | C(#N)\C(\C(=O)OCC)=C\1/C(CCC1)(C)C | C12H17NO2
